US09145415B2
To a solution of ethyl 2,2-difluoro-3-hydroxy-3-(3-nitrophenyl)propanoate (C29, 1.02 g) in methylene chloride (22 mL), bis(2-methoxyethyl)aminosulfur trifluoride (1.6 mL) was added under ice cooling, and the mixture was stirred at room temperature for 16 hours. To the reaction mixture, ethyl acetate and water were added. The organic layer was separated, washed successively with 1.0 mol/L aqueous hydrochloric acid, saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain ethyl 2,2,3-trifluoro-3-(3-nitrophenyl)propanoate (C30, 1.19 g).

reactant | ethyl 2,2-difluoro-3-hydroxy-3-(3-nitrophenyl)propanoate | 1.02 g | FC(C(=O)OCC)(C(C1=CC(=CC=C1)[N+](=O)[O-])O)F | C11H11F2NO5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | bis(2-methoxyethyl)aminosulfur trifluoride | 1.6 mL | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
solvent | methylene chloride | 22 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2,2,3-trifluoro-3-(3-nitrophenyl)propanoate | 1.19 g | FC(C(=O)OCC)(C(C1=CC(=CC=C1)[N+](=O)[O-])F)F | C11H10F3NO4
